US07241458B1
A mixture of 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile (0.00303 mol) and NaBO3.4H2O (0.00911 mol) in CH3OH (30 ml) and H2O (10 ml) was stirred and refluxed for 4 days. The reaction mixture was cooled. The precipitate was filtered off and the precipitate (!) was purified by flash column chromatography over silica gel (eluent: CH2Cl2/CH3OH gradient from 100/0 to 95/5). The desired fractions were collected and the solvent was evaporated, yielding 0.586 g (56%) of 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzamide (comp. 40). The filtrate (!) was purified by reversed-phase HPLC (eluent gradient: ((0.5% ammoniumacetate in H2O)/CH3CN 90/10)/CH3OH/CH3CN (0 minutes) 75/25/0, (44 minutes) 0/50/50, (57 minutes) 0/0/100, (61.1–70 minutes) 75/25/0). Three desired fraction groups were collected and their solvent was evaporated, yielding 0.18 g of 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzamide, N3-oxide (comp. 49) and 0.030 g of 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]-amino]benzamide, N1-oxide.

reactant | 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile | 0.00303 mol | CC1=C(C(=CC(=C1)C)C)NC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | C20H19N5
reactant | CH3OH | 30 ml | CO | CH4O
solvent | H2O | 10 ml | O | H2O
product | 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzamide | 0.586 g, 56% | CC1=C(C(=CC(=C1)C)C)NC1=NC(=NC=C1)NC1=CC=C(C(=O)N)C=C1 | C20H21N5O
